US03993677
Preparation of 1-Methoxy-3-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)urea
A mixture of N-methoxyamine (2.5 g), triethylamine (3.04 g) and dry methylene chloride (50 ml) is stirred at room temperature for 20 minutes under a nitrogen atmosphere. Then a solution of 1,2,3,4-tetrahydro-4-oxo-1-naphthyl isocyanate (5.62 g) in dry methylene chloride (50 ml) is added dropwise. After stirring at room temperature for 40 minutes, the reaction mixture is evaporated to dryness in vacuo and the solid residue washed with water (3 × 150 ml) to yield 6.1 g. title product, m.p. 148° to 151° C. Recrystallization from benzene affords crystals, m.p. 155° to 158° C.

reactant | N-methoxyamine | 2.5 g | CON | CH5NO
reactant | triethylamine | 3.04 g | C(C)N(CC)CC | C6H15N
reactant | 1,2,3,4-tetrahydro-4-oxo-1-naphthyl isocyanate | 5.62 g | O=C1CCC(C2=CC=CC=C12)N=C=O | C11H9NO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-Methoxy-3-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)urea | CONC(=O)NC1CCC(C2=CC=CC=C12)=O | C12H14N2O3
